US06548667B2
(D)-valine methylester hydrochloride (0.2 g, 1.19 mmol) was dispersed in dichloromethane (3 mL) and cooled down to 0° C., and triethylamine (0.37 mL, 3 equi.) was added. The dichloromethane solution containing 2-n-propylthiobenzoxazol-6-sulfonyl chloride (0.26 g, 1.0 equi.) prepared in the above Example and dichloromethane (2 mL) was also added while maintaining the temperature of 0° C. When starting material was exhausted after 5 hours, the organic phase was washed with 1N HCl, dried over MgSO4, distilled under reduced pressure and dried under vacuum, to give (2R)-3-methyl-2-[(2-propylthiobenzoxazol-6-sulfonyl)amino] butanoic acid methylester(0.31 g, 67%).

reactant | (D)-valine methylester hydrochloride | 1.19 mmol, 0.2 g | Cl.COC([C@H](N)C(C)C)=O
reactant | triethylamine | 0.37 mL | C(C)N(CC)CC | C6H15N
reactant | 2-n-propylthiobenzoxazol-6-sulfonyl chloride | 0.26 g | C(CC)SC=1OC2=C(N1)C=CC(=C2)S(=O)(=O)Cl | C10H10ClNO3S2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (2R)-3-methyl-2-[(2-propylthiobenzoxazol-6-sulfonyl)amino] butanoic acid methylester | 0.31 g, 67% | COC([C@@H](C(C)C)NS(=O)(=O)C1=CC2=C(N=C(O2)SCCC)C=C1)=O | C16H22N2O5S2
